US08455613B2
Step 2: 4-(4-bromophenoxy)butan-1-amine
N(4-(4-bromophenoxy)butyl)phthalimide (6.01 g, 16.1 mmol) is dissolved in ethanol (200 mL) under nitrogen, followed by the addition of hydrazine monohydrate (7.8 mL, 161 mmol). The reaction was refluxed at 80° C. for 2 hours. Once reaction completed (solids formed at the top layer), cooled reaction to room temperature and neutralized with 1M HCl (50 mL). The mixture is allowed to stir until all solids are completely dissolved and diluted with dichloromethane (150 mL). The solution was extracted with two portions of saturated NaHCO3 (2×). The organic layers were combined, washed with brine and water, then dried over MgSO4, and filtered. Removal of solvent yields a yellow oil (2.93 g, 75%).

reactant | N(4-(4-bromophenoxy)butyl)phthalimide | 16.1 mmol, 6.01 g | BrC1=CC=C(OCCCCN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C18H16BrNO3
reactant | hydrazine monohydrate | 161 mmol, 7.8 mL | O.NN
reactant | HCl | 1M, 50 mL | Cl | ClH
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 4-(4-bromophenoxy)butan-1-amine | 2.93 g, 75% | BrC1=CC=C(OCCCCN)C=C1 | C10H14BrNO
